US09259426B2
Synthesis of N4,N2-bis-n-butyl-6-(4-fluoro-phenyl)-quinazoline-2,4-diamine
To a solution of 2,4-Dichloro-6-(4-fluoro-phenyl)-quinazoline (20 mg, 0.068 mmol) in 1,4-dioxane was added n-butylamine (20 mg). The solution was heated to 60° C. for 2 hours, and subsequently cooled, diluted with EtOAc and washed with brine. The organic layer was dried and purified by RP HPLC with a gradient of H2O, 0.1% TFA-acetonitrile, to provide the desired product (8 mg). The product was characterized as follows: MS (m/z): 367 ([M+H]+, 100); HPLC Rt=1.69 minutes (Method A).

reactant | 2,4-Dichloro-6-(4-fluoro-phenyl)-quinazoline | 0.068 mmol, 20 mg | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C1=CC=C(C=C1)F | C14H7Cl2FN2
reactant | n-butylamine | 20 mg | C(CCC)N | C4H11N
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N4,N2-bis-n-butyl-6-(4-fluoro-phenyl)-quinazoline-2,4-diamine | 8 mg | C(CCC)NC1=NC(=NC2=CC=C(C=C12)C1=CC=C(C=C1)F)NCCCC | C22H27FN4
